US06093732
6-Amino-N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-3-quinolinecarboxamide
To a flask containing tert-butyl-3-{[(4-chlorobenzyl)amino]carbonyl}-8-fluoro-4-hydroxy-6-quinolinylcarbamate from Preparation No. 25 (0.06 g) and dichloromethane (2 mL) is added trifluoroacetic acid (2 mL). The reaction mixture is stirred 1 hour then concentrated under reduced pressure. The residue is triturated with toluene (3×) and dried in vacuo. The residue is adsorbed onto silica and chromatographed on silica eluting with 2% MeOH:CH2Cl2 to 6% MeOH:CH2Cl2. The product-containing fractions are evaporated to give 0.04 g of the title compound as a tan solid.

reactant | tert-butyl-3-{[(4-chlorobenzyl)amino]carbonyl}-8-fluoro-4-hydroxy-6-quinolinylcarbamate | C(C)(C)(C)OC(NC=1C=C2C(=C(C=NC2=C(C1)F)C(=O)NCC1=CC=C(C=C1)Cl)O)=O | C22H21ClFN3O4
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 6-Amino-N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-3-quinolinecarboxamide | 0.04 g | NC=1C=C2C(=C(C=NC2=C(C1)F)C(=O)NCC1=CC=C(C=C1)Cl)O | C17H13ClFN3O2
